US06583180B2
N-(1,3-benzodioxol-5-ylmethyl)-N-(2-methyl-3-nitrophenyl)amine
2-Methyl-3-nitroaniline and 1,3-benzodioxole-5-carbaldehyde were processed as described in Example 1C to provide the title compound.

reactant | 2-Methyl-3-nitroaniline | CC1=C(N)C=CC=C1[N+](=O)[O-] | C7H8N2O2
reactant | 1,3-benzodioxole-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
product | N-(1,3-benzodioxol-5-ylmethyl)-N-(2-methyl-3-nitrophenyl)amine | O1COC2=C1C=CC(=C2)CNC2=C(C(=CC=C2)[N+](=O)[O-])C | C15H14N2O4
